### PR TITLE
[Merged by Bors] - feat(RingTheory): definition of regular ring

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we define regular ring as every localization is regular local ring, and proved polynomial over regular ring is regular.

---

- [x] depends on: #28682

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Thmoas-Guan** [comment]
This PR is depending some lemma developed from Krull heights theorem and dimension of polynomial ring.

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
...
+    simpa only [Ideal.primeCompl, p]
+  let _ := (isRegularRing_iff R).mp ‹_› p (Ideal.comap_isPrime e p')
+  exact IsRegularLocalRing.of_ringEquiv
+    (IsLocalization.ringEquivOfRingEquiv (Localization.AtPrime p) (Localization.AtPrime p') e this)
+
+set_option backward.isDefEq.respectTransparency false in
+instance [IsDomain R] [IsDedekindDomain R] : IsRegularRing R := by
+  refine (isRegularRing_iff R).mpr (fun p hp ↦ ?_)
+  by_cases eqbot : p = ⊥
+  · let _ : Field (Localization.AtPrime p) := IsField.toField (by
```
Comment (erdOne) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
  · let : Field (Localization.AtPrime p) := IsField.toField (by
```

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+      simp [isField_iff_maximalIdeal_eq, ← Localization.AtPrime.map_eq_maximalIdeal, eqbot])
+    infer_instance
+  · let _ := IsLocalization.AtPrime.isDiscreteValuationRing_of_dedekind_domain
```
Comment (erdOne) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
  · have := IsLocalization.AtPrime.isDiscreteValuationRing_of_dedekind_domain
```

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,54 @@
...
+    ext x
+    have : (∃ y, e y ∉ p' ∧ e y = x) ↔ x ∉ p' := ⟨fun ⟨y, hy, eq⟩ ↦ by simpa [← eq],
+      fun h ↦ ⟨e.symm x, by simpa, RingEquiv.apply_symm_apply e x⟩⟩
+    simpa only [Ideal.primeCompl, p]
+  let _ := (isRegularRing_iff R).mp ‹_› p (Ideal.comap_isPrime e p')
+  exact IsRegularLocalRing.of_ringEquiv
+    (IsLocalization.ringEquivOfRingEquiv (Localization.AtPrime p) (Localization.AtPrime p') e this)
+
+set_option backward.isDefEq.respectTransparency false in
+instance [IsDomain R] [IsDedekindDomain R] : IsRegularRing R := by
```
Comment (erdOne) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
instance (priority := low) [IsDomain R] [IsDedekindDomain R] : IsRegularRing R := by
```

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A ring is regular if its localization at any prime `IsRegularLocalRing`. -/
+@[mk_iff]
+class IsRegularRing : Prop where
+  localization_isRegular : ∀ p : Ideal R, ∀ (_ : p.IsPrime),
+    IsRegularLocalRing (Localization.AtPrime p)
```
Comment (erdOne) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: Do you not want to ask for noetherian here?

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,54 @@
...
+
+public import Mathlib.RingTheory.DedekindDomain.Dvr
+public import Mathlib.RingTheory.RegularLocalRing.Defs
+
+/-!
+
+# Definition of Regular Ring
+
+In this file, we define regular ring as ring with localization at every prime is regular local ring.
+(Regular local ring is not natrually regular ring in this definition).
```
Comment (erdOne) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: I think you should turn this into a todo. Something like
```
## TODO
Show that regular local rings are regular under this definition.
This follows from the fact that localization of regular local rings are still regular (hard).
```
Or alternatively you could also change the definition to "all localization at maximal ideals are regular"?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: I have this in coming PR, what do you think now?
Maximal ideals is acceptable, but I think it might not be an ideal way.

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean (hunk 4 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: For regular local ring, I just want to keep the case span rank and dimension both infinite outside, maybe adding noetherian here is reasonable? Up to you, since I don't know the usage very well.

Comment (erdOne) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: I think the usual definition requires noetherianness?

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: Great! In that case the current definition is definitely better. But I still think this should be a TODO for now. Maybe add your handle (e.g. `TODO (@Thmoas-Guan)`) to the to do to signify that this is already done somewhere downstream.

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean (hunk 4 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: I agree for general convention in natural language, so if you don't care about this generalization, I'll add noetherian.

Comment (erdOne) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: Yes I would prefer if it extends `IsNoetherianRing`

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,61 @@
...
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A noetherian ring is regular if its localization at any prime `IsRegularLocalRing`. -/
+class IsRegularRing : Prop extends IsNoetherianRing R where
+  localization_isRegular : ∀ p : Ideal R, ∀ (_ : p.IsPrime),
+    IsRegularLocalRing (Localization.AtPrime p)
+
+lemma isRegularRing_iff (R : Type u_1) [CommRing R] [IsNoetherianRing R] : IsRegularRing R ↔
```
Comment (artie2000) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
lemma isRegularRing_iff {R : Type u_1} [CommRing R] [IsNoetherianRing R] : IsRegularRing R ↔
```
Makes it easier to use `.mp` and `.mpr`

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,61 @@
...
+  apply (isRegularRing_iff R').mpr (fun p' hp' ↦ ?_)
+  let p := p'.comap e
+  have : Submonoid.map e.toMonoidHom p.primeCompl = p'.primeCompl := by
+    ext x
+    have : (∃ y, e y ∉ p' ∧ e y = x) ↔ x ∉ p' := ⟨fun ⟨y, hy, eq⟩ ↦ by simpa [← eq],
+      fun h ↦ ⟨e.symm x, by simpa, RingEquiv.apply_symm_apply e x⟩⟩
+    simpa only [Ideal.primeCompl, p]
+  let _ := (isRegularRing_iff R).mp ‹_› p (Ideal.comap_isPrime e p')
+  exact IsRegularLocalRing.of_ringEquiv
+    (IsLocalization.ringEquivOfRingEquiv (Localization.AtPrime p) (Localization.AtPrime p') e this)
```
Comment (artie2000) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
  have := isNoetherianRing_of_ringEquiv R e
  refine isRegularRing_iff.mpr (fun p' hp' ↦ ?_)
  have := isRegularRing_iff.mp ‹_› (p'.comap e) (Ideal.comap_isPrime e p')
  suffices Submonoid.map e.toMonoidHom (p'.comap e).primeCompl = p'.primeCompl from
    IsRegularLocalRing.of_ringEquiv <| IsLocalization.ringEquivOfRingEquiv
    (Localization.AtPrime (p'.comap e)) (Localization.AtPrime p') e this
  ext x
  simpa using ⟨fun ⟨y, hy, eq⟩ ↦ by simpa [← eq],
              fun h ↦ ⟨e.symm x, by simpa, RingEquiv.apply_symm_apply e x⟩⟩
```
Golf
Also, use `let` for data and `have` for props

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,61 @@
...
+
+instance (priority := low) [IsDomain R] [IsDedekindDomain R] : IsRegularRing R := by
+  refine (isRegularRing_iff R).mpr (fun p hp ↦ ?_)
+  by_cases eqbot : p = ⊥
+  · let : Field (Localization.AtPrime p) := IsField.toField (by
+      simp [isField_iff_maximalIdeal_eq, ← Localization.AtPrime.map_eq_maximalIdeal, eqbot])
```
Comment (artie2000) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
  · let : Field (Localization.AtPrime p) := IsField.toField <| by
      simp [isField_iff_maximalIdeal_eq, ← Localization.AtPrime.map_eq_maximalIdeal, eqbot]
```

**Review by artie2000 — CHANGES_REQUESTED** [review]

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean (hunk 6 above)
Comment (artie2000) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
lemma isRegularRing_iff [IsNoetherianRing R] : IsRegularRing R ↔
```
also remove repeated variables (it can get confusing / hard to maintain) here and later in the file
use `include {R} in` / `include (R) in` as needed instead

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean (hunk 7 above)
Comment (artie2000) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: You still didn't change all the lets! Also I do think my rearrangement of the proof makes it easier to read and maintain. Do you disagree?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: Sorry, I implemented now.

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,61 @@
...
+    IsRegularLocalRing (Localization.AtPrime p)
+
+variable {R} in
+lemma isRegularRing_iff [IsNoetherianRing R] : IsRegularRing R ↔
+    ∀ (p : Ideal R) (_ : p.IsPrime), IsRegularLocalRing (Localization.AtPrime p) :=
+  ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
+
+variable {R} in
+lemma isRegularRing_of_ringEquiv {R' : Type*} [CommRing R'] (e : R ≃+* R')
+    [reg : IsRegularRing R] : IsRegularRing R' := by
```
Comment (artie2000) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: sorry just noticed: do you actually use the name `reg` anywhere in the proof?

**Review by artie2000 — APPROVED** [review]
otherwise lgtm, thanks for your patience with my review!

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean (hunk 9 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]: Previously yes, but now no :)

**Comment by artie2000** [comment]
spurious CI failure; please make an empty commit or merge master

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,61 @@
...
+
+@[expose] public section
+
+open IsLocalRing
+
+variable (R : Type*) [CommRing R]
+
+/-- A noetherian ring is regular if its localization at any prime `IsRegularLocalRing`. -/
+class IsRegularRing : Prop extends IsNoetherianRing R where
+  localization_isRegular : ∀ p : Ideal R, ∀ (_ : p.IsPrime),
```
Comment (erdOne) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
  isRegularLocalRing_localization : ∀ p : Ideal R, ∀ (_ : p.IsPrime),
```

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,61 @@
...
+module
+
+public import Mathlib.RingTheory.DedekindDomain.Dvr
+public import Mathlib.RingTheory.RegularLocalRing.Defs
+
+/-!
+
+# Definition of Regular Ring
+
+In this file, we define regular ring as ring with localization at every prime is regular local ring.
```
Comment (erdOne) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
In this file, we define regular rings as noetherian rings whose localization at every prime are regular local rings.
```

File: Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,61 @@
...
+(Note that regular local ring is not natrually regular ring in this definition).
+
+## TODO
+Show that regular local rings are regular under this definition.
+This follows from localization of regular local rings are still regular (@Thmoas-Guan).
```
Comment (erdOne) [inline Mathlib/RingTheory/RegularLocalRing/RegularRing/Basic.lean]:
```suggestion
This follows from localizations of regular local rings being regular (@Thmoas-Guan).
```

**Review by erdOne — APPROVED** [review]
LGTM otherwise

**Comment by Thmoas-Guan** [comment]
This doesn't seem adding much import, I'll combine them then.

**Comment by Thmoas-Guan** [comment]
I added a small lemma, I think appart from this it is good now?

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 13]
```diff
@@ -76,3 +76,61 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
         Submodule.spanFinrank_span_le_ncard_of_finite (Set.finite_singleton x)
 
 end IsRegularLocalRing
+
+/-!
+
+# Definition of Regular Ring
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
# Definition of regular rings
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 14]
```diff
@@ -76,3 +76,61 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
...
+
+In this section, we define regular rings as noetherian rings whose localization at every prime are
+regular local rings.
+(Note that regular local ring is not natrually regular ring in this definition).
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
(Note that a regular local ring is a regular ring, but this is not immediate under this definition).
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 15]
```diff
@@ -76,3 +76,61 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
...
+
+## TODO
+Show that regular local rings are regular under this definition.
+This follows from localizations of regular local rings being regular (@Thmoas-Guan).
+
+-/
+
+/-- A noetherian ring is regular if its localization at any prime `IsRegularLocalRing`. -/
+class IsRegularRing (R : Type*) [CommRing R] : Prop extends IsNoetherianRing R where
+  isRegularLocalRing_localization : ∀ p : Ideal R, ∀ (_ : p.IsPrime),
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
  isRegularLocalRing_localization (p : Ideal R) [p.IsPrime] :
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 16]
```diff
@@ -76,3 +76,61 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
...
+
+lemma IsRegularLocalRing.of_isRegularRing_of_isLocalRing [IsLocalRing R] [IsRegularRing R] :
+    IsRegularLocalRing R := by
+  have := isRegularRing_iff.mp ‹_› (maximalIdeal R) (Ideal.IsMaximal.isPrime' _)
+  let e : R ≃ₐ[R] (Localization.AtPrime (maximalIdeal R)) :=
+    IsLocalization.atUnits R (maximalIdeal R).primeCompl (fun x ↦ by simpa using fun a ↦ a)
+  exact IsRegularLocalRing.of_ringEquiv e.toRingEquiv.symm
+
+instance (priority := low) [IsDomain R] [IsDedekindDomain R] : IsRegularRing R := by
+  refine isRegularRing_iff.mpr (fun p hp ↦ ?_)
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]: Could you please `rw` instead? I know it is an extra line, but it works at a stricter transparency.
Please also make the same change above.

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 17]
```diff
@@ -76,3 +76,61 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
...
+    IsRegularRing R' := by
+  have := isNoetherianRing_of_ringEquiv R e
+  apply isRegularRing_iff.mpr (fun p' hp' ↦ ?_)
+  have := isRegularRing_iff.mp ‹_› (p'.comap e) (Ideal.comap_isPrime e p')
+  suffices (p'.comap e).primeCompl.map e = p'.primeCompl from
+    IsRegularLocalRing.of_ringEquiv <| IsLocalization.ringEquivOfRingEquiv
+      (Localization.AtPrime (p'.comap e)) (Localization.AtPrime p') e this
+  ext x
+  simpa using ⟨fun ⟨y, hy, eq⟩ ↦ eq ▸ hy,
+    fun h ↦ ⟨e.symm x, (e.apply_symm_apply x).symm ▸ h, e.apply_symm_apply x⟩⟩
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]: This is a complicated term under a `simpa using` (in particular, anything using anonymous constructor notation should be usually avoided under `simpa using`). Please ungolf it or use a `have`.

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 18]
```diff
@@ -76,3 +76,65 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
         Submodule.spanFinrank_span_le_ncard_of_finite (Set.finite_singleton x)
 
 end IsRegularLocalRing
+
+/-!
+
+# Definition of regular rings
+
+In this section, we define regular rings as noetherian rings whose localization at every prime are
+regular local rings.
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
In this section, we define regular rings as Noetherian rings whose localization at every prime are
regular local rings.
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 19]
```diff
@@ -76,3 +76,65 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
...
+
+section IsRegularRing
+
+variable {R} in
+lemma isRegularRing_iff [IsNoetherianRing R] : IsRegularRing R ↔
+    ∀ (p : Ideal R) (_ : p.IsPrime), IsRegularLocalRing (Localization.AtPrime p) :=
+  ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
+
+variable {R} in
+lemma isRegularRing_of_ringEquiv {R' : Type*} [CommRing R'] (e : R ≃+* R') [IsRegularRing R] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
lemma IsRegularRing.of_ringEquiv {R' : Type*} [CommRing R'] (e : R ≃+* R') [IsRegularRing R] :
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 20]
```diff
@@ -76,3 +76,65 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
...
+    IsRegularRing R' := by
+  have := isNoetherianRing_of_ringEquiv R e
+  rw [isRegularRing_iff]
+  intro p hp
+  have := isRegularRing_iff.mp ‹_› (p.comap e) (Ideal.comap_isPrime e p)
+  suffices (p.comap e).primeCompl.map e = p.primeCompl from
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]: Could you please make the claim of the `suffices` a separate lemma and `rw` with it here?

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 21]
```diff
@@ -76,3 +76,65 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
...
+/-- A noetherian ring is regular if its localization at any prime `IsRegularLocalRing`. -/
+class IsRegularRing (R : Type*) [CommRing R] : Prop extends IsNoetherianRing R where
+  isRegularLocalRing_localization (p : Ideal R) [p.IsPrime] :
+    IsRegularLocalRing (Localization.AtPrime p)
+
+section IsRegularRing
+
+variable {R} in
+lemma isRegularRing_iff [IsNoetherianRing R] : IsRegularRing R ↔
+    ∀ (p : Ideal R) (_ : p.IsPrime), IsRegularLocalRing (Localization.AtPrime p) :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]: Could you please make the forward direction of this lemma a (low priority) instance? This would probably allow to remove a few `have`s below.

**Comment by chrisflav** [comment]
Also, I would move the section docstring to the module docstring, this way it would be better discoverable.

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean (hunk 21 above)
Comment (artie2000) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
    ∀ p : Ideal R, p.IsPrime → IsRegularLocalRing (Localization.AtPrime p) :=
```
more readable imo

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/RegularLocalRing/Defs.lean]: This is far from working, localization at prime need it to be prime.

Comment (artie2000) [reply Mathlib/RingTheory/RegularLocalRing/Defs.lean]: oh I see, in that case I think it should be an instance argument?

File: Mathlib/RingTheory/Ideal/Maps.lean [hunk 22]
```diff
@@ -503,6 +503,14 @@ theorem mem_map_of_equiv {E : Type*} [EquivLike E R S] [RingEquivClass E R S] (e
   · rintro ⟨x, hx, rfl⟩
     exact mem_map_of_mem e hx
 
+lemma _root_.RingEquiv.map_primeCompl_comap_eq (e : R ≃+* S) (p : Ideal S) [p.IsPrime] :
+    (p.comap e).primeCompl.map e = p.primeCompl := by
+  ext x
+  have : (∃ y, e y ∉ p ∧ e y = x) ↔ x ∉ p := by
+    refine ⟨fun ⟨y, hy, eq⟩ ↦ eq ▸ hy, fun h ↦ ⟨e.symm x, ?_⟩⟩
+    simpa
+  simpa
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Maps.lean]:
```suggestion
  simp [SetLike.ext_iff, e.surjective.forall]
```

File: Mathlib/RingTheory/RegularLocalRing/Defs.lean [hunk 23]
```diff
@@ -76,3 +87,45 @@ instance [IsLocalRing R] [IsDomain R] [IsPrincipalIdealRing R] : IsRegularLocalR
...
+  exact IsRegularLocalRing.of_ringEquiv <| IsLocalization.ringEquivOfRingEquiv
+    (Localization.AtPrime (p.comap e)) (Localization.AtPrime p) e (e.map_primeCompl_comap_eq p)
+
+lemma IsRegularLocalRing.of_isRegularRing_of_isLocalRing [IsLocalRing R] [IsRegularRing R] :
+    IsRegularLocalRing R := by
+  let e : R ≃ₐ[R] (Localization.AtPrime (maximalIdeal R)) :=
+    IsLocalization.atUnits R (maximalIdeal R).primeCompl (fun x ↦ by simpa using fun a ↦ a)
+  exact IsRegularLocalRing.of_ringEquiv e.toRingEquiv.symm
+
+instance (priority := low) [IsDomain R] [IsDedekindDomain R] : IsRegularRing R := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/RegularLocalRing/Defs.lean]:
```suggestion
instance (priority := low) [IsDedekindDomain R] : IsRegularRing R := by
```

**Review by chrisflav — APPROVED** [review]
Thanks, LGTM modulo two comments.

File: Mathlib/RingTheory/Ideal/Maps.lean (hunk 22 above)
Comment (artie2000) [reply Mathlib/RingTheory/Ideal/Maps.lean]: surely we prefer `ext; simp [e.surjective.forall]`

Comment (chrisflav) [reply Mathlib/RingTheory/Ideal/Maps.lean]: Surely you should test your suggestions before you make them :)

Comment (artie2000) [reply Mathlib/RingTheory/Ideal/Maps.lean]: my apologies!

**Comment by chrisflav** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
